US07968578B2
Step 4: 4-{(1S)-1-[({1-[3-(trifluoromethyl)benzyl]-1H-indol-7-yl}carbonyl)amino]ethyl}benzoic acid
Methyl 4-{(1S)-1-[({1-[3-(trifluoromethyl)benzyl]-1H-indol-7-yl}carbonyl)amino]ethyl}benzoate (220 mg, 0.458 mmol) was dissolved in THF (2 ml) and MeOH (1.14 ml). 2M NaOH (1.14 ml, 2.29 mmol) was added and the mixture stirred at 50° C. for 1 hour. The mixture was cooled, the organic solvents removed and poured into 1N HCl. The resulting solid was filtered and washed with water. 1H NMR (500 MHz, DMSO-d6): δ 12.90 (bs, 1H), 8.90 (d, 1H), 7.85 (d, 2H), 7.75 (d, 1H), 7.65-7.55 (m, 2H), 7.50-7.40 (m, 3H), 7.25 (m, 2H), 7.15-7.00 (m, 4H), 7.00 (d, 1H), 6.65 (s, 1H), 5.60 (dd, 2H), 5.00 (m, 1H), 1.20 (d, 3H). MS-ESI (464.9).

reactant | Methyl 4-{(1S)-1-[({1-[3-(trifluoromethyl)benzyl]-1H-indol-7-yl}carbonyl)amino]ethyl}benzoate | 0.458 mmol, 220 mg | FC(C=1C=C(CN2C=CC3=CC=CC(=C23)C(=O)N[C@@H](C)C2=CC=C(C(=O)OC)C=C2)C=CC1)(F)F | C27H23F3N2O3
reactant | NaOH | 2.29 mmol, 2M, 1.14 ml | [OH-].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | MeOH | 1.14 ml | CO | CH4O
product | 4-{(1S)-1-[({1-[3-(trifluoromethyl)benzyl]-1H-indol-7-yl}carbonyl)amino]ethyl}benzoic acid | FC(C=1C=C(CN2C=CC3=CC=CC(=C23)C(=O)N[C@@H](C)C2=CC=C(C(=O)O)C=C2)C=CC1)(F)F | C26H21F3N2O3
